US07622492B2
Triphenylphosphine (0.54 g, 2.1 mmol) was added to a solution of (3-trifluoromethyl-1-trityl-1H-pyrazol-4-yl)-methanol (0.6 g, 1.5 mmol) in dichloromethane (25 mL). The resulting solution was cooled to −20° C. and a solution of carbon tetrabromide (0.54 g, 1.6 mmol) in dichloromethane (5 mL) was added in four portions. The solution was stirred for 5 min at −20° C. and then at for 3 h at 0° C. Further portions of triphenylphosphine (0.17 g, 0.65 mmol) and carbon tetrabromide (0.24 g, 0.72 mmol) were added. The solution was stirred for 3 h, and further portions of triphenylphosphine (0.54 g, 2 mmol) and carbon tetrabromide were added. The solution was stirred for 30 min and then the solvent was evaporated and the residue purified by flash chromatography, eluting with 5-10% ethyl acetate/petroleum ether to give 4-bromomethyl-3-trifluoromethyl-1-trityl-1H-pyrazole (0.30 g, 43%) as a white solid.

reactant | Triphenylphosphine | 2.1 mmol, 0.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (3-trifluoromethyl-1-trityl-1H-pyrazol-4-yl)-methanol | 1.5 mmol, 0.6 g | FC(C1=NN(C=C1CO)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(F)F | C24H19F3N2O
reactant | carbon tetrabromide | 1.6 mmol, 0.54 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.65 mmol, 0.17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 0.72 mmol, 0.24 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 2 mmol, 0.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-bromomethyl-3-trifluoromethyl-1-trityl-1H-pyrazole | 0.30 g, 43% | BrCC=1C(=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F | C24H18BrF3N2
